US06323235B1
Methyl (7-hydroxybenzofuran-3-yl)acetate
Methyl (7-methoxybenzofuran-3-yl)acetate (12.37 g) was dissolved in dichloromethane (50 ml) and the solution was cooled to −78° C. To this solution, boron tribromide (1.0 M, 120 ml) was added dropwise for 50 minutes. Thereafter, the temperature was raised to room temperature and the reaction solution was stirred at this temperature for 3 hours. After completion of the reaction, the reaction solution was cooled to −78° C. and methanol (100 ml) was added thereto. After neutralizing the reaction mixture by adding sodium hydrogen carbonate, the resulting solution was filtered. The filtrate was concentrated and poured into water layer (300 ml) and the resultant was extracted twice with ether (150 ml). After combining the organic layers, the resultant was washed with saturated brine and dried over sodium sulfate. After removing the sodium sulfate by filtration, the solvent was removed under reduced pressure and the residue was purified by column chromatography (solvent: hexane/ethyl acetate=2/1) using silica gel to obtain the desired compound (10.53 g, yield: 91%).

reactant | Methyl (7-methoxybenzofuran-3-yl)acetate | 12.37 g | COC1=CC=CC=2C(=COC21)CC(=O)OC | C12H12O4
reactant | boron tribromide | 1.0 M, 120 ml | B(Br)(Br)Br | BBr3
reactant | methanol | 100 ml | CO | CH4O
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | Methyl (7-hydroxybenzofuran-3-yl)acetate | 10.53 g, yield: 91% | OC1=CC=CC=2C(=COC21)CC(=O)OC | C11H10O4
